US04272507
57.63 g (0.2 mole) of 4-(2,6-dichloroanilino)-3-thiophencarboxylic acid (dissolved in 350 ml of tetrahydrofuran) are added dropwise to a suspension of 7.59 g (0.2 mole) of lithium aluminum hydride in 170 ml of absolute tetrahydrofuran at 15° in the course of one hour, while stirring and under nitrogen. Stirring is then continued at room temperature for one hour. The reaction mixture is hydrolyzed with 2 liters of ice-cold water, acidified to pH 5 with dilute sulfuric acid and extracted with 1.5 liters of ethyl acetate. The extract is washed with 100 ml of 2 N sodium bicarbonate solution, dried over sodium sulfate and concentrated, 4-(2,6-dichloroanilino)-3-thiophenmethanol being obtained in almost quantitative yield as a viscous oil which slowly solidifies. Recrystallization from cyclohexane gives pure 4-(2,6-dichloroanilino)-3-thiophenmethanol (m. 96° to 97°).

reactant | 4-(2,6-dichloroanilino)-3-thiophencarboxylic acid | 0.2 mole, 350 ml, 57.63 g | ClC1=C(NC=2C(=CSC2)C(=O)O)C(=CC=C1)Cl | C11H7Cl2NO2S
reactant | lithium aluminum hydride | 0.2 mole, 7.59 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
product | 4-(2,6-dichloroanilino)-3-thiophenmethanol | quantitative yield | ClC1=C(NC=2C(=CSC2)CO)C(=CC=C1)Cl | C11H9Cl2NOS
